US08138197B2
Methyl 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoate
Methyl 4-bromo-3,5-diethoxybenzoate (1 g) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (895 mg) were dissolved in DME in a nitrogen atmosphere, and potassium phosphate (2.1 g) and 1,1′-bis(diphenylphosphino)ferrocene palladium (D) chloride-CH2Cl2 complex (269 mg) were added to it at room temperature, and degassed. The reaction liquid was stirred overnight at 90° C., then cooled to room temperature, and water was added to it, and this was filtered through Celite. The filtrate was extracted with chloroform, washed with saturated saline water, and dried with sodium sulfate. Sodium sulfate was removed through filtration, the filtrate was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=100/0 to 50/50 to 35/65) to obtain the title compound as a pale yellow solid.

reactant | Methyl 4-bromo-3,5-diethoxybenzoate | 1 g | BrC1=C(C=C(C(=O)OC)C=C1OCC)OCC | C12H15BrO4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 895 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 2.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium | 269 mg | [Pd].C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoate | C(C)OC=1C=C(C(=O)OC)C=C(C1C=1C=NN(C1)C)OCC | C16H20N2O4
